US07049438B2
4-(2-bromo-5-methoxyanilino)-5-(N-methylpiperidin-4-ylmethoxy)quinazoline
Using an analogous procedure to that described in Example 8, 4-(2-bromo-5-methoxyanilino)-5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]quinazoline (0.22 g) was reacted with concentrated aqueous formaldehyde solution (0.4 ml) to give the title compound, as a formic acid salt (0.183 g); NMR Spectrum: (CDCl3) 1.7–1.9 (m, 2H), 2.06 (d, 2H), 2.2 (m, 1H), 2.58 (t, 2H), 2.68 (s, 3H), 3.51 (d, 2H), 3.8 (s, 3H), 4.24 (d, 2H), 6.64 (m, 1H), 6.94 (d, 1H), 7.48 (d, 1H), 7.54 (d, 1H), 7.69 (m, 1H), 8.2 (d, 1H), 8.3 (br s, 1H), 8.69 (s, 1H), 9.94 (s, 1H); Mass Spectrum: M+H+ 457 and 459.

reactant | 4-(2-bromo-5-methoxyanilino)-5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]quinazoline | 0.22 g | BrC1=C(NC2=NC=NC3=CC=CC(=C23)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)OC | C26H31BrN4O4
reactant | formaldehyde | 0.4 ml | C=O | CH2O
product | 4-(2-bromo-5-methoxyanilino)-5-(N-methylpiperidin-4-ylmethoxy)quinazoline | BrC1=C(NC2=NC=NC3=CC=CC(=C23)OCC2CCN(CC2)C)C=C(C=C1)OC | C22H25BrN4O2
